US06432993B1
t-Butyl N-[5-(4-hydroxy-2,5-dimethylphenoxy)-2-nitrophenyl]N-methylcarbamate
In a similar manner to that described in Reference Example 6, a reaction was carried out using 2,5-dimethylhydroquinone (1.38 g), t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate (2.87 g), sodium hydride (55 wt. %, 0.87 g) and anhydrous N,N-dimethylformamide (20 ml) and the reaction mixture was purified to give the title compound (1.72 g).

reactant | 2,5-dimethylhydroquinone | 1.38 g | CC1=C(O)C=C(C(=C1)O)C | C8H10O2
reactant | t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate | 2.87 g | ClC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C12H15ClN2O4
reactant | sodium hydride | 0.87 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | t-Butyl N-[5-(4-hydroxy-2,5-dimethylphenoxy)-2-nitrophenyl]N-methylcarbamate | 1.72 g | OC1=CC(=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=C1C)C | C20H24N2O6
